US04327093
To a solution of benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-imidazolyl)carbonyloxymethyl-3-cephem-4-carboxylate (syn isomer)(13.5 g) in tetrahydrofuran (200 ml) was added m-chloroperbenzoic acid (5.8 g) with stirring under ice-cooling, followed by stirring for an hour at 5° C. The reaction mixture was evaporated and the residue was pulverized in diethyl ether, collected by filtration, washed with ethyl acetate and diethyl ether and then dried to give benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-imidazolyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide (syn isomer)(11.0 g).

reactant | benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-imidazolyl)carbonyloxymethyl-3-cephem-4-carboxylate | 13.5 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(=O)N2C=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C32H27N7O8S2
reactant | m-chloroperbenzoic acid | 5.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-imidazolyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide | 11.0 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)COC(=O)N2C=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C32H27N7O9S2
